US09193736B2
A solution of 3-(quinolin-2-yl)cyclobutanecarboxylic acid (200 mg, 0.800 mmol) in DCM was cooled to 0° C. and treated with 10 μL of DMF followed by addition of oxalyl chloride (154 μL, 1.76 mmol). The resulting mixture was stirred at rt for 30 min and concentrated. The resultant residue was dried in vacuo for 15 min, dissolved in CH3CN (5 mL), and treated with a 2 M solution of TMSCHN2 in hexanes (0.88 mL, 1.76 mmol). The resulting mixture was stirred for 1 h, cooled to 0° C. and treated with 33 wt % HBr in acetic acid (0.35 mL, 1.76 mmol), dropwise. After stirring for 30 min, the reaction mixture was diluted with DCM (25 mL) and washed with saturated NaHCO3 (2×25 mL). The organic layer was separated, dried over Na2SO4, and concentrated. The residue obtained was dried in vacuo for 15 min to obtain 2-bromo-1-(3-(quinolin-2-yl)cyclobutyl)ethanone as a viscous oil which was used without further purification in the next step.

reactant | 3-(quinolin-2-yl)cyclobutanecarboxylic acid | 0.800 mmol, 200 mg | N1=C(C=CC2=CC=CC=C12)C1CC(C1)C(=O)O | C14H13NO2
reactant | oxalyl chloride | 1.76 mmol, 154 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
reactant | acetic acid | 1.76 mmol, 0.35 mL | C(C)(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 μL | CN(C)C=O | C3H7NO
product | 2-bromo-1-(3-(quinolin-2-yl)cyclobutyl)ethanone | BrCC(=O)C1CC(C1)C1=NC2=CC=CC=C2C=C1 | C15H14BrNO
